US05047417
12.70 g of N-(1-benzylpyrrolidin-3-yl)phthalimide was dissolved in 100 ml of ethanol and then subjected to hydrogenating decomposition with addition of 1.0 g of 10% palladium-carbon and 5.2 ml of concentrated hydrochloric acid at 60° C. under 1 atm. After 12 hours, the catalyst was filtered out and the solvent was distilled off to obtain 11.03 g of N-(3-pyrrolidyl)phthalimide hydrochloride.

reactant | N-(1-benzylpyrrolidin-3-yl)phthalimide | 12.70 g | C(C1=CC=CC=C1)N1CC(CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C19H18N2O2
reactant | hydrochloric acid | 5.2 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | N-(3-pyrrolidyl)phthalimide hydrochloride | 11.03 g | Cl.N1CC(CC1)N1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C12H12N2O2.ClH/c15-11-9-3-1-2-4-10(9)12(16)14(11)8-5-6-13-7-8;/h1-4,8,13H,5-7H2;1H
